US07786144B2
To a magnetically stirred solution of 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylic acid (20.0 g, 54.5 mmol) in dichloromethane (400 ml) was slowly added bromine (5.62 ml, 109 mmol) and the resulting mixture was reacted for 16 hours at room temperature. Diethyl ether (400 ml) and excess aqueous saturated NaHCO3 solution were successively added. The organic layer was separated, twice washed with aqueous saturated NaHCO3 solution and subsequently washed with brine, dried over MgSO4, filtered and concentrated to give 4-bromo-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylic acid (19.77 gram, 81% yield). Melting point: 222-224° C.

reactant | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylic acid | 54.5 mmol, 20.0 g | ClC1=CC=C(C=C1)C1=CC(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)O | C16H9Cl3N2O2
reactant | bromine | 109 mmol, 5.62 ml | BrBr | Br2
reactant | Diethyl ether | 400 ml | C(C)OCC | C4H10O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 4-bromo-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylic acid | 19.77 gram, 81% yield | BrC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)C(=O)O | C16H8BrCl3N2O2
